US04479949
3-Acetyl-2-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]benzothiazoline hydrochloride (Compound No. 86)
1.64 g of 3-acetyl-2-[2-(2,3-epoxypropoxy)phenyl]benzothiazoline, 1.82 g of 3-acetyl-2-[2-(3-chloro-2-hydroxypropoxy)phenyl]benzothiazoline and 10 ml of t-butylamine are dissolved in 30 ml of ethanol and the solution is refluxed for 3 hours. The solution is concentrated in vacuo, and the residue is dissolved in ethyl acetate. The solution is washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. To this solution 2N HCl/ether is added to produce crystals. Crystals are filtered to give 3.5 g (80%) of the titled compound.

reactant | 3-acetyl-2-[2-(2,3-epoxypropoxy)phenyl]benzothiazoline | 1.64 g | C(C)(=O)N1C(SC2=C1C=CC=C2)C2=C(C=CC=C2)OCC2CO2 | C18H17NO3S
reactant | 3-acetyl-2-[2-(3-chloro-2-hydroxypropoxy)phenyl]benzothiazoline | 1.82 g | C(C)(=O)N1C(SC2=C1C=CC=C2)C2=C(C=CC=C2)OCC(CCl)O | C18H18ClNO3S
reactant | t-butylamine | 10 ml | C(C)(C)(C)N | C4H11N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Acetyl-2-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]benzothiazoline hydrochloride | 3.5 g, 80% | Cl.C(C)(=O)N1C(SC2=C1C=CC=C2)C2=C(C=CC=C2)OCC(CNC(C)(C)C)O | InChI=1S/C22H28N2O3S.ClH/c1-15(25)24-18-10-6-8-12-20(18)28-21(24)17-9-5-7-11-19(17)27-14-16(26)13-23-22(2,3)4;/h5-12,16,21,23,26H,13-14H2,1-4H3;1H
